US06780950B2
Synthesis of 4-Trimethylsilyl Ethynyl Toluene [M-38]
Under an argon atmosphere, 33 g (0.193 mol) of 4-bromotoluene, 2.7 g (3.85 mmol) of bis(triphenylphosphine)palladium(II) dichloride and 0.735 mg (3.85 mmol) of copper Iodide were put into a 1 L 3-necked flask equipped with a stirrer, thermometer and reflux condenser, and dissolved in 500 ml of diisopropylamine. 37.9 g (0.385 mol) of trimethylsilyl acetylene was slowly dropped into the resluting solution at room temperature. The reaction mixture was slowly heated to 80° C. and refluxed for 12 hours. After the reaction was completed, the reaction mixture was cooled down to room temperature. The precipitated salt was filtered off, and then the solvent was removed under a reduced pressure. The residue was dissolved in methylene chloride. The organic solution was washed with water several times and then dried with anhydrous magnesium sulfate. The solvent was removed to obtain liquid, which was purified by silica gel column chromatography using hexane as an eluent, to give 35 g (99.3% yield) of pale brown viscous liquid.

reactant | 4-bromotoluene | 0.193 mol, 33 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | trimethylsilyl acetylene | 0.385 mol, 37.9 g | C[Si](C)(C)C#C | C5H10Si
solvent | diisopropylamine | 500 ml | C(C)(C)NC(C)C | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 3.85 mmol, 2.7 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper Iodide | 3.85 mmol, 0.735 mg | [Cu](I)I
product | 4-Trimethylsilyl Ethynyl Toluene | 35 g, 99.3% yield | C[Si](C1=CC(=C(C=C1)C)C#C)(C)C | C12H16Si
